US03933841
2-(4'-isothiocyanophenoxy)-1-Methylbenzimidazole
An amount of 4.8 g of 2-(4'-aminophenoxy)-1-methylbenzimidazole is stirred with 2.3 g of bis-(trichloromethane-sulphonyl-trithiocarbonate in 25 ml of water for 24 hours at room temperature. The precipitate is separated, washed with sodium bicarbonate solution, and taken up in chloroform. After drying and distillation of the chloroform solution, the residue is boiled out with cyclohexane, filtered hot, and the filtrate diluted with petroleum ether. The 2-(4'-isothiocyanophenoxy)-1-methylbenzimidazole crystallising out melts at 59° to 61°C.

reactant | 2-(4'-aminophenoxy)-1-methylbenzimidazole | 4.8 g | NC1=CC=C(OC2=NC3=C(N2C)C=CC=C3)C=C1 | C14H13N3O
reactant | trichloromethane-sulphonyl-trithiocarbonate | ClC(S(=O)(=O)[SH-]C([S-])=S)(Cl)Cl
solvent | water | 25 ml | O | H2O
product | 2-(4'-isothiocyanophenoxy)-1-Methylbenzimidazole | N(=C=S)C1=CC=C(OC2=NC3=C(N2C)C=CC=C3)C=C1 | C15H11N3OS
